US04547357
258 ml of 2,2-dimethoxypropane is added dropwise within 2 hours to an agitated and water-cooled solution of 272 g of 3-chloro-1,2,4-butanetriol and 0.5 ml of concen-trated sulfuric acid in one liter of acetone. The reaction is completed after another 4 hours. The solution is neutralized by adding 3.8 g of barium hydroxide. The mixture is stirred for another 30 minutes, filtered off from the solid matter, and evaporated to dryness under vacuum, producing 2-chloro-2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol as a yellow oil.

reactant | 2,2-dimethoxypropane | 258 ml | COC(C)(C)OC | C5H12O2
reactant | 3-chloro-1,2,4-butanetriol | 272 g | ClC(C(CO)O)CO | C4H9ClO3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | barium hydroxide | 3.8 g | [OH-].[Ba+2].[OH-]
solvent | acetone | one liter | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-chloro-2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol | ClC(CO)C1OC(OC1)(C)C | C7H13ClO3
